US05753664
6-[4-(4-Chlorobenzoyl)benzyl]thio-3,5-dimethyl-isoxazolo[5,4-d]pyrimidin-4(5H)-one
To a solution of 6-mercapto-3,5-dimethylisoxazolo-[5,4-d]pyrimidin-4(5H)-one (800 mg) and sodium hydroxide (165 mg) in 50% ethanol (10 ml)-DMF (10 ml) was added 4-(4-chlorobenzoyl)benzyl bromide (1.25 g) and the mixture was stirred at room temperature for 1 hour. This reaction mixture was concentrated and the residue was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to provide the title compound as colorless solid (470 mg). 1H-NMR (CDCl3) 8: 2.57(3H,s), 3.55(3H,s), 4.59(2H,s), 7.46(2H,d,J=8.6Hz), 7.58(2H,d,J=8.4Hz), 7.74(2H,d,J=8.4Hz), 7.76(2H,d,J=8.6Hz).

reactant | 6-mercapto-3,5-dimethylisoxazolo-[5,4-d]pyrimidin-4(5H)-one | 800 mg | SC=1N(C(C2=C(N1)ON=C2C)=O)C | C7H7N3O2S
reactant | sodium hydroxide | 165 mg | [OH-].[Na+]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | 4-(4-chlorobenzoyl)benzyl bromide | 1.25 g | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 6-[4-(4-Chlorobenzoyl)benzyl]thio-3,5-dimethyl-isoxazolo[5,4-d]pyrimidin-4(5H)-one | 470 mg | ClC1=CC=C(C(=O)C2=CC=C(CSC=3N(C(C4=C(N3)ON=C4C)=O)C)C=C2)C=C1 | C21H16ClN3O3S
